US08202858B2
3-[4-(3,4-Dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-2-methyl-phenyl]-propionic Acid
Trifluoroacetic acid (2 ml) was added to 3-[4-(3,4-dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-2-methyl-phenyl]-propionic acid tert-butyl ester from Example E80.1 (46 mg, 0.10 mmol) in dichloromethane (5 ml). The mixture was stirred for 2 h at room temperature then concentrated in vacuo to yield the title compound (40 mg, 100%).

reactant | Trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 3-[4-(3,4-dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-2-methyl-phenyl]-propionic acid tert-butyl ester | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)C(=O)N1C2=C(N(C=3N(N=CC3C1)C)C)C=CC=C2)C)=O | C27H32N4O3
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 3-[4-(3,4-Dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-2-methyl-phenyl]-propionic Acid | 40 mg, 100% | CN1N=CC=2CN(C3=C(N(C12)C)C=CC=C3)C(=O)C3=CC(=C(C=C3)CCC(=O)O)C | C23H24N4O3
